US08791132B2
To a solution of 5-(2-hydroxy-2-pyridin-4-yl-ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-8-carboxylic acid ethyl ester (200 mg, 0.547 mmol) in dry THF (10 mL) was added portionwise LAH (63 mg, 1.65 mmol) under nitrogen at RT. After stirring for 2 h, the reaction mixture was quenched with water (0.5 mL), NaOH (1 mL). The organic layer was separated and concentrated under reduced pressure. The crude product was purified by reverse phase chromatography to yield 2-(8-hydroxymethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol. 1H NMR (CD3OD, freebase) δ (ppm): 8.41 (d, 2H), 7.42 (s, 1H), 7.39 (d, 2H), 7.3 (d, 1H), 7.19 (d, 1H), 5.08 (t, 1H), 4.66 (s, 2H), 4.4 (s, 2H), 4.3 (m, 2H), 3.5 (m, 2H), 3.2 (m, 1H), 2.9 (m, 1H). Separation by chiral HPLC provides enantiomers II-81a-b.

reactant | 5-(2-hydroxy-2-pyridin-4-yl-ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-8-carboxylic acid ethyl ester | 0.547 mmol, 200 mg | C(C)OC(=O)C1=CC=2C3=C(N(C2C=C1)CC(C1=CC=NC=C1)O)CCNC3 | C21H23N3O3
reactant | LAH | 1.65 mmol, 63 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(8-hydroxymethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol | OCC1=CC=2C3=C(N(C2C=C1)CC(O)C1=CC=NC=C1)CCNC3 | C19H21N3O2
